US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (100 mg, 0.32 mmol) in DMSO (3 mL) was added dipropylamine (100 mg, 0.99 mmol) and DIEA (100 mg, 0.77 mmol). The resulting solution was stirred overnight at 85° C. and then diluted with water (50 mL), extracted with ethyl acetate (3×20 mL), and the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give a residue, which was purified via silica gel column chromatography (2.5%-4% ethyl acetate in petroleum ether) to afford methyl 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a yellow solid (50 mg, 41%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.32 mmol, 100 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | dipropylamine | 0.99 mmol, 100 mg | C(CC)NCCC | C6H15N
reactant | DIEA | 0.77 mmol, 100 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
product | methyl 3-(dipropylamino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 50 mg, 41% | C(CC)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)CCC | C22H24FN3O2
